US04263037
2-(2-Acetoxy-5-cyanophenyl)-2-methyl-1-propyl acetate
Acetyl chloride (3.5 g) in diethyl ether (10 ml) was added portionwise with swirling and ice cooling (5°-10° C.) to 2-(5-cyano-2-hydroxyphenyl)-2-methyl-1-propanol (3.8 g) prepared as in Example 26 and triethylamine (4.6 g) in diethyl ether (40 ml). The mixture was allowed to warm to room temperature, and was left for three hours before washing with water twice, drying over magnesium sulphate, and running down. The crude product (4 g) was dissolved in toluene and filtered through a bed of aluminium oxide. Removal of the toluene left the title product (2.3 g) as a colourless oil.

reactant | Acetyl chloride | 3.5 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-(5-cyano-2-hydroxyphenyl)-2-methyl-1-propanol | 3.8 g | C(#N)C=1C=CC(=C(C1)C(CO)(C)C)O | C11H13NO2
reactant | triethylamine | 4.6 g | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 2-(2-Acetoxy-5-cyanophenyl)-2-methyl-1-propyl acetate | C(C)(=O)OCC(C)(C)C1=C(C=CC(=C1)C#N)OC(C)=O | C15H17NO4
